US08703763B2
d) 8-(4,4-Dimethyl-cyclohex-1-enyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine
To a solution of N-[3-(4,4-dimethyl-cyclohex-1-enyl)-pyridin-2-yl]-N′-carboethoxy-thiourea (1.42 g, 3.48 mmol) in ethanol (4.3 mL) was added at room temperature hydroxylamine hydrochloride (1.50 g, 21.4 mmol) and methanol (4.3 mL). The yellow suspension was heated to 70° C. over night. The solvent was evaporated under reduced pressure and the residue was partitionated between ethyl acetate and water. The aqueous layer was extracted twice with ethyl acetate and the organic layers were combined, washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and the solvent was removed under reduced pressure. The crude material was purified by column chromatography on silica gel first with ethyl acetate as the eluent and then once again with a mixture of heptane/ethyl acetate (1:1 v/v) as the eluent to yield the title compound as a yellow solid (526 mg, 51%).

reactant | N-[3-(4,4-dimethyl-cyclohex-1-enyl)-pyridin-2-yl]-N′-carboethoxy-thiourea | 3.48 mmol, 1.42 g | CC1(CC=C(CC1)C=1C(=NC=CC1)NC(=S)NC(=O)OCC)C | C17H23N3O2S
reactant | hydroxylamine hydrochloride | 21.4 mmol, 1.50 g | Cl.NO
reactant | methanol | 4.3 mL | CO | CH4O
solvent | ethanol | 4.3 mL | C(C)O | C2H6O
product | 8-(4,4-Dimethyl-cyclohex-1-enyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 526 mg, 51% | CC1(CC=C(CC1)C=1C=2N(C=CC1)N=C(N2)N)C | C14H18N4
